US06815451B2
N-[2-(3,4-Dimethoxy-phenyl)-ethyl]-3-(3-methoxy-phenyl)-propionamide
To a suspension of 3-(3-methoxy-phenyl)-propionic acid (1.19 g, 6.62 mmol) and 3-dimethylamino-propyl)-ethyl-carbodiimide hydrochloride (1.33 g, 6.95 mmol) in THF (20 mL) is added 2-(3,4-dimethoxy-phenyl)-ethylamine (1.20 g, 6.62 mmol). The mixture is stirred at rt for 14 h. The mixture is poured onto H2O (100 mL) and EtOAc (100 mL). The organic layer is washed successively with saturated sodium hydrogen carbonate solution, 10% citric acid and saturated sodium chloride solution. The resulting organic layer is concentrated under reduced pressure to give the title compound.

reactant | 3-(3-methoxy-phenyl)-propionic acid | 6.62 mmol, 1.19 g | COC=1C=C(C=CC1)CCC(=O)O | C10H12O3
reactant | ethyl-carbodiimide hydrochloride | 6.95 mmol, 1.33 g | Cl.C(C)N=C=N
reactant | 2-(3,4-dimethoxy-phenyl)-ethylamine | 6.62 mmol, 1.20 g | COC=1C=C(C=CC1OC)CCN | C10H15NO2
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | N-[2-(3,4-Dimethoxy-phenyl)-ethyl]-3-(3-methoxy-phenyl)-propionamide | COC=1C=C(C=CC1OC)CCNC(CCC1=CC(=CC=C1)OC)=O | C20H25NO4
